US06528525B1
(c) 3-Methoxypyridine-6-ylbenzoic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 3-methoxypyridine-6-ylbenzoate (249 mg), which is the product of Reference example 33(b), and aqueous sodium hydroxide solution (1N, 1.20 ml) and the reaction mixture was treated to afford the title compound (206 mg) as colorless crystals.

reactant | methyl 3-methoxypyridine-6-ylbenzoate | 249 mg | COC=1C=NC(=CC1)C1=C(C(=O)OC)C=CC=C1 | C14H13NO3
reactant | sodium hydroxide | 1N, 1.20 ml | [OH-].[Na+]
product | 3-Methoxypyridine-6-ylbenzoic acid | 206 mg | COC=1C=NC(=CC1)C1=C(C(=O)O)C=CC=C1 | C13H11NO3
